US08349885B2
Preparation 20: Synthesis of 2-cyclohexyl-5-methyl-7-nitro-1H-indole
6-Iodo-4-methyl-2-nitroaniline (500 mg, 1.8 mmol) and cyclohexylacetylene (0.23 ml, 1.8 mmol) were reacted according to the same procedure as Preparation 19 to give the title compound (290 mg, Yield 62%).

reactant | 6-Iodo-4-methyl-2-nitroaniline | 1.8 mmol, 500 mg | IC1=CC(=CC(=C1N)[N+](=O)[O-])C | C7H7IN2O2
reactant | cyclohexylacetylene | 1.8 mmol, 0.23 ml | C1(CCCCC1)C#C | C8H12
product | 2-cyclohexyl-5-methyl-7-nitro-1H-indole | 290 mg, Yield 62% | C1(CCCCC1)C=1NC2=C(C=C(C=C2C1)C)[N+](=O)[O-] | C15H18N2O2
